US08012956B2
Palladium on carbon 10% by weight Degussa type (50 mg) was added to a solution of phenylmethyl 4-cyano-3-{[trans-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexyl]amino}benzoate (71.8 mg, 0.16 mmol) in ethyl acetate (3 mL) and methanol (400 uL). The mixture was subjected to 1 atm of hydrogen for 70 min. The catalyst was then removed by filtration through celite. The resulting filtrate was concentrated to provide 4-cyano-3-{[trans-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexyl]amino}benzoic acid (55.8 mg, 0.16 mmol) which was carried into the subsequent step without further purification. 1H NMR (400 MHz, CD3OD): 7.47 (d, 1H), 7.37 (s, 1H), 7.24 (d, 1H), 3.47-3.21 (m, 2H), 2.09 (m, 2H), 1.98 (m, 2H), 1.88 (m, 2H), 1.43 (s, 9H), 1.24 (m, 2H); MS (EI) for C19H25N3O4: 304 (MH+-tert-butyl).

reactant | phenylmethyl 4-cyano-3-{[trans-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexyl]amino}benzoate | 0.16 mmol, 71.8 mg | C(#N)C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)N[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C | C26H31N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 400 uL | CO | CH4O
product | 4-cyano-3-{[trans-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexyl]amino}benzoic acid | 0.16 mmol, 55.8 mg | C(#N)C1=C(C=C(C(=O)O)C=C1)N[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C | C19H25N3O4
